US07842758B2
1,4-Diethynyl-2,5-di-n-octyloxybenzene
1,4-Bis(trimethylsilylethynyl)-2,5-di-n-octyloxybenzene (2.331 g, 4.42×10−3 mol) was dissolved in a mixture of THF (25 ml) and MeOH (25 ml). 5N NaOH (2.0 ml, 1.0×10−2 mol) was added and the solution was stirred for 3 h under Ar. Water was added to the reaction mixture. The organic layer was extracted three times with CHCl3. The combined organic layers were dried over Na2SO4. The residue was chromatographed on silica gel with 1:1 hexane:CHCl3 as the eluent. Yield=1.419 g (84% based on 2.331 g of 1,4-bis(trimethylsilylethynyi)-2,5-di-n-octyloxybenzene). 1H NMR (300 MHz, CDCl3): δ 6.95 (s, 2H, Ph-H), 3.97 (t, 8H, J=6.6 Hz, —OCH2—), 3.33 (s, 2H, —CC—H), 1.80 (quint, 4H, J=7.0 Hz, —OCH2CH2—), 1.39-1.52 (m, 4H, —OCH2CH2CH2—), 1.15-1.39 (m, 16H, —CH2—), 0.88 (t, 6H, J=6.7 Hz, —CH3). CI MS m/z: 382.285 (M+) (calcd 382.287).

reactant | 1,4-Bis(trimethylsilylethynyl)-2,5-di-n-octyloxybenzene | 4.42×10−3 mol, 2.331 g | C[Si](C)(C)C#CC1=C(C=C(C(=C1)OCCCCCCCC)C#C[Si](C)(C)C)OCCCCCCCC | C32H54O2Si2
reactant | NaOH | 1.0×10−2 mol, 5N, 2.0 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | MeOH | 25 ml | CO | CH4O
product | 1,4-Diethynyl-2,5-di-n-octyloxybenzene | C(#C)C1=C(C=C(C(=C1)OCCCCCCCC)C#C)OCCCCCCCC | C26H38O2
